data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_265369_1,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([N:7]([C:2]([H:12])([H:13])[H:14])/[C:8]([C:6]([H:24])([H:25])[H:26])=[N:10]/[C:5]([H:21])([H:22])[H:23])[O:9][H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([O:9][H:11])[N:10]([C:5]([H:21])([H:22])[H:23])/[C:8]([C:6]([H:24])([H:25])[H:26])=[N:7]\[C:2]([H:12])([H:13])[H:14],60.53994499999405
MR_318159_1,[C:1](/[C:4]([C:2]([H:14])([H:15])[H:16])=[C:7](/[C:3]([H:17])([H:18])[H:19])[H:13])([N:5]([H:10])[H:11])([C:6](=[O:8])[H:12])[H:9]>>[C:1]1([N:5]([H:10])[H:11])([H:9])[C:4]([C:2]([H:14])([H:15])[H:16])([C:6](=[O:8])[H:12])[C:7]1([C:3]([H:17])([H:18])[H:19])[H:13],72.07527750004758
MR_442218_0,[C:1]([C:6]([C:2]([H:16])([H:17])[H:18])=[C:5]([N:8]([H:10])[H:11])[C:9](=[C:7]([C:3]([H:19])([H:20])[H:24])[C:4]([H:21])([H:22])[H:23])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:6]1([C:2]([H:16])([H:17])[H:18])[C:5]([N:8]([H:10])[H:11])=[C:9]([H:12])[C:7]1([C:3]([H:19])([H:20])[H:24])[C:4]([H:21])([H:22])[H:23])([H:13])([H:14])[H:15],44.09944499994765
MR_526459_0,[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([N:6]([C:5]([H:19])([H:20])[H:21])[H:9])[O:7][O:8][C:2]([H:10])([H:11])[H:12]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([O:7][N:6]([C:5]([H:19])([H:20])[H:21])[H:9])[O:8][C:2]([H:10])([H:11])[H:12],61.66693500000221
MR_592393_0,[C:1]([C:2](/[C:3]([N:6]([H:14])[H:15])=[N:8]/[H:16])([H:17])[H:18])([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[O:7][H:9]>>[C:1]([C:2]([C:3]([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[N:8]([H:9])[H:16])([H:17])[H:18])([N:4]([H:10])[H:11])=[O:7],35.50081250000588
MR_196762_2,[C:1]1([C:5]([H:21])([H:22])[H:23])([H:10])[C:7]([N:6]([C:3]([H:15])([H:16])[H:20])[C:4]([H:17])([H:18])[H:19])([O:8][C:2]([H:12])([H:13])[H:14])[N:9]1[H:11]>>[C:1]([C:5]([H:21])([H:22])[H:23])(/[C:7]([N:6]([C:3]([H:15])([H:16])[H:20])[C:4]([H:17])([H:18])[H:19])=[N:9]/[H:11])([O:8][C:2]([H:12])([H:13])[H:14])[H:10],63.43899499995118
MR_467349_0,[C:1]1([C:5]([O:8][H:11])=[O:10])([H:12])[O:6][C:4](=[O:9])[C:2]([C:3]([H:14])([H:15])[H:16])([H:13])[O:7]1>>[C:1](=[O:6])([O:7][C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([C:5]([O:8][H:11])=[O:10])=[O:9])[H:13])[H:12],70.86483000000044
MR_217219_0,[C@@:1]12([H:11])[C:2]([H:12])([H:13])[N:8]([C:4]([O:7][H:10])=[O:9])[C@:5]1([C:3]([H:14])([H:15])[H:16])[O:6]2>>[C:1]1([C:4]([O:7][H:10])=[O:9])([H:11])[C:2]([H:12])([H:13])[N:8]=[C:5]([C:3]([H:14])([H:15])[H:16])[O:6]1,43.95198249999893
MR_145125_0,[C:1]([N:2]([C:3]([O:6][H:8])=[O:7])[C:4](=[C:5]([H:13])[H:14])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:2]=[C:3](\[O:6][H:8])[O:7][C:4](=[C:5]([H:13])[H:14])[H:9])([H:10])([H:11])[H:12],73.10500499998028
MR_664420_0,[C:1]([C:2]([N:4]([H:12])[H:13])=[O:7])([N:3]([H:10])[H:11])([O:5][O:6][H:8])[H:9]>>[C:1](\[C:2]([N:4]([H:12])[H:13])([O:5][O:6][H:8])[O:7][H:11])(=[N:3]/[H:10])[H:9],45.749142500027205
MR_399575_0,[C:1]([N:3](/[C:4]([N:5]([H:9])[H:10])=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])[N:7]=[O:8])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:4](/[N:5]([H:9])[H:10])[C@:6]([C:2]([H:15])([H:16])[H:17])([N:7]=[O:8])[H:11])([H:12])([H:13])[H:14],33.628352500025045
MR_331592_1,[C:1](/[C:4](=[N:6]\[C:2]([N:3]([H:10])[H:11])=[N:7]/[H:12])[H:13])([O:5][H:9])=[O:8]>>[C@@:1]1([O:5][H:9])([O:8]/[C:2]([N:3]([H:10])[H:11])=[N:7]\[H:12])[C:4]([H:13])=[N:6]1,69.52511749999431
MR_328999_1,[C:1](/[C:6](=[C:3](\[N:2](/[N:8]=[C:5](\[N:4]([H:11])[H:12])[H:13])[H:10])[O:7][H:9])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6](/[C:3](=[N:2]/[H:10])[O:7][H:9])(/[N:8]=[C:5](/[N:4]([H:11])[H:12])[H:13])[H:14])([H:15])([H:16])[H:17],54.35279499999197
MR_182533_0,[C:1]([N:2](/[C:3]([N:5]([H:10])[H:11])=[N:7]\[H:12])[N:4]([H:8])[H:9])([N:6]([H:13])[H:14])([H:15])[H:16]>>[C:1]([N:6]([H:13])[H:14])([N:7](/[C:3](=[N:2]/[N:4]([H:8])[H:9])[N:5]([H:10])[H:11])[H:12])([H:15])[H:16],51.72796250002023
MR_483713_1,[C:1]([O:6][N:4]([C:2]([H:13])([H:14])[H:15])[N:8][C:5]([C:3]([H:16])([H:17])[H:18])[O:7][H:9])([H:10])([H:11])[H:12]>>[C:1]([O:6][C@@:5]([C:3]([H:16])([H:17])[H:18])([O:7][H:9])/[N:8]=[N:4]/[C:2]([H:13])([H:14])[H:15])([H:10])([H:11])[H:12],31.33044749997694
MR_361015_1,[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[H:9])(/[C:6](=[C:4](/[N:5]([H:10])[H:11])[O:7][H:8])[H:14])([H:12])[H:13]>>[C:1]([N:3]([H:8])[H:9])([C:6]([C:2]([H:15])([H:16])[H:17])([C:4]([N:5]([H:10])[H:11])=[O:7])[H:14])([H:12])[H:13],47.5406549999984
MR_516126_1,[C:1](/[C:5]([N:4]([O:8][H:10])[H:11])=[N:9]\[H:12])([C:7](=[C:6]([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])[H:15])([H:13])[H:14]>>[C:1]1([H:13])([H:14])/[C:5](=[N:9]/[H:12])[C@:7]1([C:6]([C:2]([H:16])([H:17])[H:21])([C:3]([H:18])([H:19])[H:20])[N:4]([O:8][H:10])[H:11])[H:15],72.884752500037
MR_649791_1,[C:1]1([C:3](=[O:6])[H:8])([H:7])[C:2](=[O:5])[O:4]1>>[C:1]([C:2]([C:3](=[O:6])[H:8])=[O:5])(=[O:4])[H:7],36.68302249998163
